US07572809B2
Similar procedure as described in example 10 was used, starting from 3-hydroxy-benzonitrile and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give 3-[3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-benzonitrile. LC-MS m/e 342(MH+).

reactant | 3-hydroxy-benzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | 3-[3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-benzonitrile | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)OC=1C=C(C#N)C=CC1 | C20H15N5O
